US04487764
(c) Z-Tyr(But)-Tyr(But)-Gly-OEt
5.12 ml (40 mmoles) of N-ethylmorpholine and 8.65 g (42 mmoles) of DCC are added at 0° C. to a solution of 14.35 g (40 mmoles) of H-Tyr(But)-Gly-OEt.HCl, 14.84 g (40 mmoles) of Z-Tyr(But)-OH and 5.4 g (40 mmoles) of HOBt in 100 ml of dimethylformamide. The mixture is worked up as in Example 1 a. The residue is triturated with petroleum ether. Yield 26.3 g. The substance is purified by chromatographing a solution in 9:1 methylene chloride/acetone over 150 g of silica gel. The fractions were concentrated and the residue triturated with ether. Yield 19.74 g (73%), melting point 113°, [α]D22 =-28.7° (c=1, methanol).

reactant | N-ethylmorpholine | 40 mmoles, 5.12 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 42 mmoles, 8.65 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | H-Tyr(But)-Gly-OEt.HCl | 40 mmoles, 14.35 g | N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)NCC(=O)OCC.Cl
reactant | Z-Tyr(But)-OH | 40 mmoles, 14.84 g | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C21H25NO5
reactant | HOBt | 40 mmoles, 5.4 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | Z-Tyr(But)-Tyr(But)-Gly-OEt | N([C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)NCC(=O)OCC)C(=O)OCC1=CC=CC=C1 | C38H49N3O8
